data/mechanism_extracts/OrgBiomolChem/10.1039_D4OB01327A.json
{"doi": "10.1039_D4OB01327A", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical aryl-/alkyl-sulfonylation or alkoxysulfonylation of N-tert-butyl N-allylbenzamides coupled with a Truce–Smiles rearrangement to access β-arylethylamine sulfones, sulfonate esters, and sulfonic acids.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation generates the sulfonyl radical (from arylsulfonyl hydrazide via SET/deprotonation/N2 loss) or SO2 radical cation (from NaHSO3 via SO2 release and SET); after radical addition and Truce–Smiles rearrangement, the carbamoyl radical is further oxidized at the anode to a cation trapped by methanol, while protons are reduced at the cathode to H2.", "key_intermediates": [{"name": "sulfonyl radical Ia (ArSO2• or MeSO2•) from anodic oxidation/N2 extrusion of sulfonyl hydrazide", "smiles": null, "role": "reactive"}, {"name": "SO2 radical cation Ib generated from NaHSO3 anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "γ-sulfonyl β-amino C-centered radical IIa (from sulfonyl radical addition to alkene)", "smiles": null, "role": "reactive"}, {"name": "γ-(methoxysulfonyl) β-amino alkyl radical IIb (from SO2/MeOH trapping of alkene)", "smiles": null, "role": "reactive"}, {"name": "spirocyclic cyclohexadienyl radical III (5-exo-trig ipso-cyclization intermediate of Truce–Smiles)", "smiles": null, "role": "transient"}, {"name": "carbamoyl N-centered radical IV after C–C bond cleavage / aryl migration", "smiles": null, "role": "reactive"}, {"name": "carbamoyl/acylium-type cation V formed by anodic oxidation of IV", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, the sulfonyl hydrazide (path a) or NaHSO3 (path b) is oxidized to generate a sulfonyl radical (Ia) or SO2 radical cation (Ib), which adds to the allyl alkene to give a β-amino C-radical II; intramolecular ipso-addition onto the N-aryl group (5-exo-trig) yields spirocyclic radical III, which fragments to a carbamoyl radical IV. IV is oxidized at the anode to cation V, trapped by methanol to deliver the methyl carbamate product, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclic voltammetry of 1a, sulfonyl hydrazide 2 and NaHSO3", "smiles": null, "purpose": "redox_probe", "observation": "Ep/2(1a)=+1.49 V, (4-F-C6H4)SO2NHNH2 = +0.93 V, NaHSO3 = +0.67 V vs Fc+/0 in CH3CN/MeOH; sulfur components are oxidized first, supporting SET initiation at the sulfur reagent rather than the amide."}, {"name": "current off-control (Table 1, entry 15)", "smiles": null, "purpose": "other", "observation": "Without applied current, no product forms, confirming the essential role of electrolysis."}], "evidence_types_used": ["cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "A competing ortho-addition pathway of the alkyl radical onto the N-aryl ring (instead of ipso-substitution) was observed with the 2-thiophenyl substrate 1o, giving dihydrothienopyridinone 4n' (46%) alongside the expected Truce–Smiles product 4n (24%). Two parallel mechanistic pathways are proposed: path a (aryl-/alkyl-sulfonylation from ArSO2NHNH2) and path b (alkoxysulfonylation from NaHSO3 + MeOH); both converge at the radical Truce–Smiles step."}
